US07964732B2
Step A3A: 5-chloro-N-methoxy-N,1-dimethyl-1H-pyrazole-4-carboxamide
To a stirred suspension of N,O-dimethylhydroxyamine hydrochloride (0.668 g, 6.85 mmol) and triethylamine (2.60 mL, 18.7 mmol) in DMF (6 mL) was added 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid (1.00 g, 6.23 mmol, purchased from Nissan Chemical) and HBTU (2.60 g, 6.85 mmol), and the resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate-toluene (1:1, 200 mL), washed with water (200 mL), saturated aqueous sodium bicarbonate (200 mL), water (200 mL) and brine (200 mL). The organic layer was dried over sodium sulfate, filtered and evaporated. The residue was chromatographed on a column of silica gel, using ethyl acetate-hexane (1:1) as eluent to give the title compound (1.39 g, quant.) as white solid. 1H NMR (270 MHz, CDCl3) δ ppm 3.34 (3H, s), 3.67 (3H, s), 3.88 (3H, s), 7.93 (1H, s). MS (ESI): m/z 204 (M+H)+.

reactant | N,O-dimethylhydroxyamine hydrochloride | 6.85 mmol, 0.668 g | Cl.CNOC
reactant | triethylamine | 18.7 mmol, 2.60 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid | 6.23 mmol, 1.00 g | ClC1=C(C=NN1C)C(=O)O | C5H5ClN2O2
reactant | HBTU | 6.85 mmol, 2.60 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate toluene | 200 mL | C(C)(=O)OCC.C1(=CC=CC=C1)C
product | 5-chloro-N-methoxy-N,1-dimethyl-1H-pyrazole-4-carboxamide | 1.39 g | ClC1=C(C=NN1C)C(=O)N(C)OC | C7H10ClN3O2
